US05593993
DL-3-(6-fluoro-2-benzothiazolyl)-5-(phenylmethyl)-2-thioxo-4-imidazolidinon
A solution of N-[[(6-fluoro-2-benzothiazolyl)amino]thioxomethyl]-DL-phenylalanine methyl ester (0.90 g, 2.31 mmol) and p-toluene sulfonic acid hydrate (0.20 g 1.05 mmol) in toluene (80 mL) was refluxed with a Dean-Stark trap for 48 h. The reaction was cooled to room temperature, solvent removed under reduced pressure, residue taken up in ethyl acetate, washed with saturated sodium bicarbonate and saturated sodium chloride, dried over magnesium sulfate, and concentrated under reduced pressure. The resulting product was recrystallized from ethyl ether-hexanes to provide 251 mg (31%) of the titled product:

reactant | N-[[(6-fluoro-2-benzothiazolyl)amino]thioxomethyl]-DL-phenylalanine methyl ester | 2.31 mmol, 0.90 g | COC(C(NC(=S)NC=1SC2=C(N1)C=CC(=C2)F)CC2=CC=CC=C2)=O | C18H16FN3O2S2
reactant | p-toluene sulfonic acid hydrate | 1.05 mmol, 0.20 g | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
solvent | toluene | 80 mL | C1(=CC=CC=C1)C | C7H8
product | 3-(6-fluoro-2-benzothiazolyl)-5-(phenylmethyl)-2-thioxo-4-imidazolidinon | 251 mg, 31% | FC1=CC2=C(N=C(S2)N2C(NC(C2=O)CC2=CC=CC=C2)=S)C=C1 | C17H12FN3OS2
